US08710086B2
Compound 7 was prepared according to General Method 2. A solution of 4-(3-(4-(chloromethyl)-3-fluorophenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile (100 mg, 0.21 mmol) and piperidine (93 mg, 1.05 mmol) in toluene (10 mL) was refluxed for 12 h. The solvent was removed and residue was purified by silica gel chromatography (eluant: 60% ethyl acetate in hexane) to obtain 13 mg of 4-(3-(3-fluoro-4-((piperidin-1-yl)methyl)phenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile, HPLC, Column: SUNFIRE C18, 4.6×250 mm, 5 μm, Mobile Phase A: 0.05% TFA, Mobile Phase B: ACN, Gradient: 10% to 90% B in 10 min, hold for 10 min. 90% to 10% B in 1 min, Flow Rate: 1 mL/min, Retention time: 7.635 min, M+1, 505.

reactant | 4-(3-(4-(chloromethyl)-3-fluorophenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile | 0.21 mmol, 100 mg | ClCC1=C(C=C(C=C1)N1C(N(C(C1(C)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=S)F | C20H14ClF4N3OS
reactant | piperidine | 1.05 mmol, 93 mg | N1CCCCC1 | C5H11N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-(3-fluoro-4-((piperidin-1-yl)methyl)phenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile | 13 mg | FC=1C=C(C=CC1CN1CCCCC1)N1C(N(C(C1(C)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=S | C25H24F4N4OS
